US05716954
2-(3-Nitrobenzoyl)-3-carboxypyridine was dissolved in 20 ml of methylene chloride and the solution was cooled in an ice/water bath. Diazomethane (25 ml, 0.33M) was added to the solution and stirred for 2 hours. The solvent was removed and the residue chromatographed (methylene chloride) yielding 0.26 g of 2-(3-nitrobenzoyl)-3-methoxycarbonylpyridine.

reactant | 2-(3-Nitrobenzoyl)-3-carboxypyridine | [N+](=O)([O-])C=1C=C(C(=O)C2=NC=CC=C2C(=O)O)C=CC1 | C13H8N2O5
reactant | Diazomethane | 0.33M, 25 ml | [N+](=[N-])=C | CH2N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-nitrobenzoyl)-3-methoxycarbonylpyridine | 0.26 g | [N+](=O)([O-])C=1C=C(C(=O)C2=NC=CC=C2C(=O)OC)C=CC1 | C14H10N2O5
